US08809342B2
To a solution of containing 4-(trifluoromethyl)benzimidamide hydrochloride (50 g, 0.22 mol) and 2-dimethylaminomethylene-1,3-bis(dimethylammonio)propane bis(tetrafluoroborate (50 g, 0.27 mol) in ethanol (500 mL) was added sodium methoxide (36 g, 0.67 mol). The mixture was stirred for 1 h at 90° C. then cooled to room temperature. The mixture was extracted with ethyl acetate (200 mL*3). The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified via silica gel chromatography to give 2-(4-(trifluoromethyl)phenyl)pyrimidine-5-carbaldehyde (25 g) as a colorless solid. 1H NMR (400 MHz, CDCl3) δ 10.12 (s, 1H), 9.19 (s, 2H), 8.61 (d, J=8.0 Hz, 2H), 7.72 (d, J=8 Hz, 2H).

reactant | 4-(trifluoromethyl)benzimidamide hydrochloride | 0.22 mol, 50 g | Cl.FC(C1=CC=C(C(N)=N)C=C1)(F)F
reactant | 2-dimethylaminomethylene-1,3-bis(dimethylammonio)propane | CN(C)C=C(C[NH+](C)C)C[NH+](C)C
reactant | tetrafluoroborate | 0.27 mol, 50 g | F[B-](F)(F)F
reactant | sodium methoxide | 0.67 mol, 36 g | C[O-].[Na+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 2-(4-(trifluoromethyl)phenyl)pyrimidine-5-carbaldehyde | 25 g | FC(C1=CC=C(C=C1)C1=NC=C(C=N1)C=O)(F)F | C12H7F3N2O
